US06680317B2
a) 2-Fluoro-3-chlorophenylisothiocyanate
Into a solution of 2-fluoro-3-chloroaniline (1.0 g, 6.87 mmol) in 30 mL of toluene at room temperature, thiophosgene (0.8 mL, 10.3 mmol) and triethylamine (1.12 mL, 8.24 mmol) were added. The mixture was stirred at room temperature for 16 hours. The mixture was parationed between ethyl acetate and water. The combined organic layer was then concentrated to give the desired product (950 mg, 74%). 1H NMR (CDCl3) δ 7.09 (m, 2H), 7.30 (m, 1H).

reactant | 2-fluoro-3-chloroaniline | 6.87 mmol, 1.0 g | FC1=C(N)C=CC=C1Cl | C6H5ClFN
reactant | thiophosgene | 10.3 mmol, 0.8 mL | C(=S)(Cl)Cl | CCl2S
reactant | triethylamine | 8.24 mmol, 1.12 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-Fluoro-3-chlorophenylisothiocyanate | 950 mg, 74% | FC1=C(C=CC=C1Cl)N=C=S | C7H3ClFNS
